US04631328
(b) 4-(6-Propenoyloxy-hexyloxy)-benzoic acid
59.5 g of 4-(6-hydroxyhexyloxy)-benzoic acid, 10 g of 4-toluenesulfonic acid, 5 g of hydroquinone, 150 ml of acrylic acid and 150 ml of chloroform are initially taken in a round-bottomed flask equipped with a water separator. The stirred reaction mixture is refluxed for 15 hours, cooled and then introduced into from 3 to 4 times its amount of ether. The ether solution is extracted several times by shaking with warm water, and is dried with sodium sulfate. The solution is evaporated down to half its volume in a rotary evaporator, and is left in a freezer for 12 hours at -20° C. During this procedure, the acrylate separates out in crystalline form from the solution, and is filtered off under suction. The crude product is purified by recrystallizing it from a 1:2 mixture of ethanol and petroleum ether.

reactant | 4-(6-hydroxyhexyloxy)-benzoic acid | 59.5 g | OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H18O4
reactant | 4-toluenesulfonic acid | 10 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone | 5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | acrylic acid | 150 ml | C(C=C)(=O)O | C3H4O2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(6-Propenoyloxy-hexyloxy)-benzoic acid | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
